US05635510
6.4 Synthesis of 1-[2-[1-benzoyl-3-(3,4-dichlorophenyl)-pyrrolidin-3-yl]-ethyl]-4-phenylpiperidine-4-carboxylic acid (003F172)
1-[2-[1-Benzoyl-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid methyl ester (0.2850 g, 0.5 mmol) was dissolved in ethanol (10 mL) and treated with 1M sodium hydroxide (5 mL, 5 mmol) at 20° C. for 2 hours. The aqueous phase was washed with ethyl acetate. The aqueous phase was acidified with 1N hydrochloric acid, and then extracted with ethyl acetate. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo to give 0.117 g (43%) of the title compound.

reactant | 1-[2-[1-Benzoyl-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid methyl ester | 0.5 mmol, 0.2850 g | COC(=O)C1(CCN(CC1)CCC1(CN(CC1)C(C1=CC=CC=C1)=O)C1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C32H34Cl2N2O3
reactant | sodium hydroxide | 5 mmol, 1M, 5 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-[2-[1-benzoyl-3-(3,4-dichlorophenyl)-pyrrolidin-3-yl]-ethyl]-4-phenylpiperidine-4-carboxylic acid | 0.117 g, 43% | C(C1=CC=CC=C1)(=O)N1CC(CC1)(C1=CC(=C(C=C1)Cl)Cl)CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C31H32Cl2N2O3
